US09062037B2
6-(4,4-Dimethyl-1-oxo-1λ4-thiochroman-6-ylethynyl)nicotinic acid ethyl ester
A suspension of tazarotene (10.0 g, 28.5 mmol) in methanol (300 mL) was chilled in an ice water bath to <10° C., and then charged with the dropwise addition of a solution of NaIO4 (9.13 g, 42.7 mmol) in water (100 mL) over 30 minutes. The reaction was allowed to warm to room temperature while stirring for 18 hours, and was then concentrated under reduced pressure to remove as much methanol as possible. The reaction was then diluted with DCM (500 mL) and water (150 mL). The two layers were then separated, and the aqueous layer was extracted with DCM (2×100 mL aliquots). The organic fractions were pooled, dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude sulfoxide product was then chromatographed using a DCM:EtOAc solvent system. Yield: 9.00 g (86%).

reactant | tazarotene | 28.5 mmol, 10.0 g | CCOC(=O)C=1C=CC(=NC1)C#CC=2C=CC3=C(C2)C(CCS3)(C)C | C21H21NO2S
reactant | methanol | 300 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | 6-(4,4-Dimethyl-1-oxo-1λ4-thiochroman-6-ylethynyl)nicotinic acid ethyl ester | C(C)OC(C1=CN=C(C=C1)C#CC=1C=C2C(CCS(C2=CC1)=O)(C)C)=O | C21H21NO3S
